US07314888B1
In 2 ml of methanol is dissolved 0.13 g of methyl 2-[5-(4-isobutoxy-2-isopentyloxybenzoyl)-2-isobutoxyphenyl]acetate, to which is added 0.2 ml of 5 mol/L solution of sodium hydroxide. The mixture thus obtained is stirred at ambient temperature for one hour and then at 50-60° C. for one hour. Chloroform and water are added to the reaction mixture, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=2:1) to obtain 0.07 g of 2-[5-(4-isobutoxy-2-isopentyloxybenzoyl)-2-isobutoxyphenyl]acetic acid as a white-colored solid product.

reactant | methyl 2-[5-(4-isobutoxy-2-isopentyloxybenzoyl)-2-isobutoxyphenyl]acetate | 0.13 g | C(C(C)C)OC1=CC(=C(C(=O)C=2C=CC(=C(C2)CC(=O)OC)OCC(C)C)C=C1)OCCC(C)C | C29H40O6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | water | O | H2O
product | 2-[5-(4-isobutoxy-2-isopentyloxybenzoyl)-2-isobutoxyphenyl]acetic acid | 0.07 g | C(C(C)C)OC1=CC(=C(C(=O)C=2C=CC(=C(C2)CC(=O)O)OCC(C)C)C=C1)OCCC(C)C | C28H38O6
